US04889941
Preparation of 7-[3-[(3,4-Dihydroxyphenethyl)amino]-2-hydroxypropoxy]flavone Hydrobromide
To a suspension of 7-[3-[(3,4-dimethoxyphenethyl)amino]-2-hydroxypropoxy]flavone, Example 3, (5.3 g, 11.1 mmol) in dry methylene chloride (100 ml) under nitrogen at -78° C. was slowly added boron tribromide (6.3 ml, 16.7 g, 66.9 mmol) via a syringe. The cooling bath was then removed and the suspension was stirred for 1 hour. The reaction mixture was carefully decomposed by addition of a sufficient amount of water to precipitate out a brown gum leaving a clear supernatant. The liquid was decanted and the residue was washed with three portions of water. The gum was dissolved in hot isopropanol, filtered, and left to precipitate overnight. The brown solid obtained was heated in acetic acid (50 ml) and water (10 ml) to give a dark brown solution which was then treated with a few crystals of sodium dithionite to give a light tan solution. In the presence of nitrogen, the product was crystallized from the solution; 1.9 g (33%), mp 207°-210° C. (decomp).

reactant | 7-[3-[(3,4-dimethoxyphenethyl)amino]-2-hydroxypropoxy]flavone | COC=1C=C(CCNCC(COC2=CC=C3C(C=C(OC3=C2)C2=CC=CC=C2)=O)O)C=CC1OC | C28H29NO6
reactant | boron tribromide | 66.9 mmol, 6.3 ml, 16.7 g | B(Br)(Br)Br | BBr3
reactant | water | 10 ml | O | H2O
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 7-[3-[(3,4-Dihydroxyphenethyl)amino]-2-hydroxypropoxy]flavone Hydrobromide | Br.OC=1C=C(CCNCC(COC2=CC=C3C(C=C(OC3=C2)C2=CC=CC=C2)=O)O)C=CC1O | InChI=1S/C26H25NO6.BrH/c28-19(15-27-11-10-17-6-9-22(29)24(31)12-17)16-32-20-7-8-21-23(30)14-25(33-26(21)13-20)18-4-2-1-3-5-18;/h1-9,12-14,19,27-29,31H,10-11,15-16H2;1H
